US07638514B2
20 g of 2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenol and 28.8 g of potassium carbonate are introduced into 150 ml of acetonitrile. 26 g of 3-chloro-2-chloromethyl-propene are then added and the mixture is stirred for 2.5 hours at 80° C. The reaction mixture is cooled to room temperature and filtered, and the filtrate is concentrated. After purification over silica gel, 1,3-dichloro-2-(2-chloromethyl-allyloxy)-5-(3,3-dichloro-allyloxy)-benzene is obtained.

reactant | 2,6-dichloro-4-(3,3-dichloro-allyloxy)-phenol | 20 g | ClC1=C(C(=CC(=C1)OCC=C(Cl)Cl)Cl)O | C9H6Cl4O2
reactant | potassium carbonate | 28.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloro-2-chloromethyl-propene | 26 g | ClCC(=C)CCl | C4H6Cl2
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 1,3-dichloro-2-(2-chloromethyl-allyloxy)-5-(3,3-dichloro-allyloxy)-benzene | ClC1=C(C(=CC(=C1)OCC=C(Cl)Cl)Cl)OCC(=C)CCl | C13H11Cl5O2
